* E:\Git\Theremin\LittleTheremin PCB\Sims\anafrontend.asc
R1 PITCH_RF N001 4.7Meg
R2 PITCH_RF N002 10k
C1 N002 0 200p
C2 N001 0 200p
L1 N001 N002 1m
A1 N001 0 0 0 0 PITCH_RF 0 0 SCHMITT Vhigh=5 Vlow=0 Vt=2.5 Vh=0.5 tripdt=1n
C3 N003 0 220p
.tran 0 1m 0
.backanno
.end
